US07381714B2
1.5 g of ethyl 1-(9-{(2R,3R,4R,5R)-3,4-bis(1,1,2,2-tetramethyl-1-silapropoxy)-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]oxolan-2-yl}-6-(cyclopentylamino)purin-2-yl)-1,2,3-triazole-4-carboxylate prepared as described in Example 9A is dissolved in 10 mL of THF and chilled in a 0° C. bath. 2 ml of LiAlH4 is added to this solution. The mixture is then allowed to warm to room temperature over a course of several hours. A saturated solution of NH4Cl is added dropwise to the room temperature solution until no bubbles are observed. The resulting precipitate may be filtered off and the filtrate concentrated down to remove all of the remaining solvent. The remaining aqueous solution is extracted with dichloromethane and the organic layer dried of MgSO4, filtered, and concentrated down to provide the product, [1-(9-{(2R,3R,4R,5R)-3,4-bis(1,1,2,2-tetramethyl-1-silapropoxy)-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]oxolan-2-yl}-6-(oxolan-3-ylamino)purin-2-yl)-1,2,3-triazole-4-yl]methan-1-ol, was purified by chromatography in a 5% methanol/dichloromethane solution.

reactant | ethyl 1-(9-{(2R,3R,4R,5R)-3,4-bis(1,1,2,2-tetramethyl-1-silapropoxy)-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]oxolan-2-yl}-6-(cyclopentylamino)purin-2-yl)-1,2,3-triazole-4-carboxylate | 1.5 g | C[Si](C(C)(C)C)(O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C(C)(C)C)(C)C)CO[Si](C(C)(C)C)(C)C)N1C2=NC(=NC(=C2N=C1)NC1CCCC1)N1N=NC(=C1)C(=O)OCC)C | C38H68N8O6Si3
reactant | LiAlH4 | 2 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | [1-(9-{(2R,3R,4R,5R)-3,4-bis(1,1,2,2-tetramethyl-1-silapropoxy)-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]oxolan-2-yl}-6-(oxolan-3-ylamino)purin-2-yl)-1,2,3-triazole-4-yl]methan-1-ol | C[Si](C(C)(C)C)(O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C(C)(C)C)(C)C)CO[Si](C(C)(C)C)(C)C)N1C2=NC(=NC(=C2N=C1)NC1COCC1)N1N=NC(=C1)CO)C | C35H64N8O6Si3
